US07375204B2
7-(4-Butylbenzyl)-1H-pyrrolo[2,3-c]pyridine
The compound of Example B205 (800 μl, 0.3 mmol) was added to a solution of 1-chloropyrrolopyridine (19.4 mg, 0.127 mmol), which was synthesized from 2-chloro-3-aminopyridine according to the method of H07-165,708A, and dichloro(diphenylphosphinopropane)nickel (6.9 mg, 0.013 mmol) in tetrahydrofuran (1 ml) under ice-cooling, and the mixture was stirred while heating under reflux for 4 hours. After allowing the mixture to cool to room temperature, ethyl acetate was added thereto. The resulting mixture was washed with a saturated aqueous ammonium chloride solution and saturated brine, then concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give the title compound (7.1 mg).

reactant | 1-chloropyrrolopyridine | 0.127 mmol, 19.4 mg | ClN1C=CC2=C1C=CC=N2 | C7H5ClN2
reactant | 2-chloro-3-aminopyridine | ClC1=NC=CC=C1N | C5H5ClN2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 7-(4-Butylbenzyl)-1H-pyrrolo[2,3-c]pyridine | 7.1 mg | C(CCC)C1=CC=C(CC=2N=CC=C3C2NC=C3)C=C1 | C18H20N2
